US06800651B2
N-(3-(4-t-Butylphenoxy)-4-methylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
The title compound was prepared following Example 342 using N-(3-iodo-4-methylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine and 4-tert-butylphenol and purifying via radial chromatography eluting with 50:50 to 53:47 THF/hexanes gave the title compound. 1H NMR (400 MHz) 1.32 (9H, s), 1.39 (3H, t, J=7.8 Hz), 2.19 (3H, s), 3.07 (2H, q, J=7.8 Hz), 4.79 (2H, s), 6.70 (3H, m), 6.92 (1H, dd, J=2.0, 7.8 Hz), 7.16 (1H, d, J=7.8 Hz), 7.20-7.31 (3H, m), 7.67 (1H, d, J=8.3 Hz), 8.31 (1H, bs), 8.50 (1H, bs). HRMS calculated 439.2055 [M+H]+ Found 439.2073.

reactant | N-(3-iodo-4-methylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | IC=1C=C(C=CC1C)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H17IN2O2S
reactant | 4-tert-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
product | N-(3-(4-t-Butylphenoxy)-4-methylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | C(C)(C)(C)C1=CC=C(OC=2C=C(C=CC2C)N(S(=O)(=O)CC)CC=2C=NC=CC2)C=C1 | C25H30N2O3S
